US09334245B2
K. (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid propyl ester (R4=H; R7=—(CH2)2CH3)
(2S,4R)-4-Amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid (76 mg, 242 μmol) in MeCN (0.4 mL, 8 mmol) and 4 M HCl in 1,4-dioxane (242 μL, 969 μmol) was combined with propan-1-ol (0.5 mL) at 60° C. The resulting mixture was stirred until solid precipitation was observed (˜30 minutes). The solvent was evaporated under vacuum and the solids were azeotroped in toluene and dried under vacuum. 1,2,3-Triazole-4-carboxylic acid (0.0274 g, 0.242 mmol), DIPEA (169 μL, 969 μmol) and HATU (92 mg, 242 μmol) were combined in DMF (0.2 mL) and stirred for 5 minutes at room temperature. This was then combined with the dried solids, predissolved in DMF (0.2 mL) and DIPEA (0.5 eq.). The resulting mixture was stirred for 15 minutes and the reaction was quenched with AcOH. The product was purified by preparative HPLC and lyophilized to yield the title compound (24 mg; purity 95%). MS m/z [M+H]+ calc'd for C25H30N4O4, 451.23. found 451.4.

reactant | (2S,4R)-4-Amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid | 242 μmol, 76 mg | N[C@@H](C[C@@](C(=O)O)(C)CO)CC1=CC=C(C=C1)C1=CC=CC=C1 | C19H23NO3
reactant | MeCN | 8 mmol, 0.4 mL | CC#N | C2H3N
reactant | 1,4-dioxane | 969 μmol, 242 μL | O1CCOCC1 | C4H8O2
reactant | 1,2,3-Triazole-4-carboxylic acid | 0.242 mmol, 0.0274 g | N1N=NC(=C1)C(=O)O | C3H3N3O2
reactant | DIPEA | 969 μmol, 169 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 242 μmol, 92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | HCl | 4 M | Cl | ClH
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | propan-1-ol | 0.5 mL | C(CC)O | C3H8O
product | (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid propyl ester | 24 mg | C(CC)OC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=NC1)(C)CO)=O | C25H30N4O4
